US05932601
To a suspension of [2-(1,3-dioxolan-2-yl)ethyl] triphenylphosphonium bromide (6.7 g) in tetrahydrofuran (THF) (60 ml) was added dropwise, at -30° C. in nitrogen streams, a hexane solution of n-butyl lithium (1.6M, 9.4 ml). The mixture was stirred for one hour at the same temperature, to which was then added dropwise, at -30° C., a solution of 3-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propionaldehyde (4.1 g) in tetrahydrofuran (THF) (10 ml). The cooling bath was removed, and the reaction mixture was stirred for further one hour at room temperature. The reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), followed by distilling off the solvent under reduced pressure. The residue was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate-hexane (1:2), was obtained 2-[5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy) phenyl]-3-pentenyl]-1,3-dioxolan as an oily product (4.5 g). This oily product was dissolved in methanol (50 ml)--tetrahydrofuran (THF) (30 ml). To the solution was added palladium-carbon (5%, 0.5 g), which was subjected to catalytic hydrogenation at room temperature under 1 atmospheric pressure. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to give 2-[5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]pentyl]-1,3-dioxolan (3.8 g, 75%), which was recrystallized from ethyl acetate-hexane to give colorless needles, m.p.81-82° C.

reactant | [2-(1,3-dioxolan-2-yl)ethyl] triphenylphosphonium bromide | 6.7 g | [Br-].O1C(OCC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | hexane | CCCCCC | C6H14
reactant | n-butyl lithium | 1.6M, 9.4 ml | C(CCC)[Li]
reactant | 3-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propionaldehyde | 4.1 g | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCC=O | C21H21NO4
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy) phenyl]-3-pentenyl]-1,3-dioxolan | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CC=CCCC1OCCO1 | C26H29NO5
